US05665718
100 g (348 mmol) of (S)-7-fluoro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid were suspended in 600 ml of N,N-dimethylformamide and treated with 64.1 g (395 mmol) of 1,1'-carbonyldiimidazole. After stirring at 50° for 30 minutes 80 ml of 25% ammonia were added dropwise at 13° to 20° and the mixture was stirred for 30 minutes and poured into 21 of water. By suction filtration of the resulting suspension and drying the crystals there were obtained 52.7 g (76%) of (S)-7-fluoro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide of m.p. 223°-224°.

reactant | (S)-7-fluoro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 348 mmol, 100 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)O)CC3)=O)C1 | C14H10FN3O3
reactant | 1,1'-carbonyldiimidazole | 395 mmol, 64.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 80 ml | N | H3N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | (S)-7-fluoro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide | 52.7 g, 76% | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)N)CC3)=O)C1 | C14H11FN4O2
